US07524882B2
A solution of 4-benzyloxy-3-chlorobenzaldehyde (0.25 g, 2.0 mmol), 2,2,2-trifluoroethyltriphenylphosphonium trifluoromethanesulfonate (0.49 g, 1.0 mmol) and CsF (0.76 g, 5.0 mmol) in DMF (10 mL) was stirred at 25° C. for 16 h. The reaction was then diluted with ethyl acetate, washed with water and dried. Removal of the solvent gave a residue which was purified by preparative TLC to give 1-(3-chloro-4-benzyloxyphenyl)-3,3,3-trifluoropropene. This product (65 mg, 0.2 mmol) was dissolved in ethyl acetate (2 mL) and hydrogenated (1 atm) in the presence of 10% palladium on carbon for 1 hr. Removal of the catalyst and solvent give 2-chloro-4 (3,3,3-trifluoropropyl)phenol as an oil.

reactant | 4-benzyloxy-3-chlorobenzaldehyde | 2.0 mmol, 0.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
reactant | 2,2,2-trifluoroethyltriphenylphosphonium trifluoromethanesulfonate | 1.0 mmol, 0.49 g | FC(S(=O)(=O)[O-])(F)F.FC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F
reactant | CsF | 5.0 mmol, 0.76 g | [F-].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloro-4-benzyloxyphenyl)-3,3,3-trifluoropropene | ClC=1C=C(C=CC1OCC1=CC=CC=C1)C=CC(F)(F)F | C16H12ClF3O
